US07910595B2
4-(4-Hydroxy-phenylsulfanyl)-3-nitro-phenol
A solution of 4-Chloro-3-nitro-phenol (2.0 g, 11.52 mmol), 4-hydroxythiophenol (1.45 g, 11.52 mmol) and cesium carbonate (11.26 g, 34.56 mmol) in N,N-dimethylformamide (25 mL) was heated to 100° C. for 4 hours. After cooling to room temperature, 1N aqueous Hydrochloric acid (150 mL) was added and the resultant solution extracted with ethyl acetate (2×100 mL), the combined extracts dried over magnesium sulfate, filtered and concentrated under vacuum to provide the crude title compound which was purified by chromatography on silica gel using hexanes/ethyl acetate as eluent to obtain the title product as a bright orange solid (1.35 g, 45%).

reactant | 4-Chloro-3-nitro-phenol | 11.52 mmol, 2.0 g | ClC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H4ClNO3
reactant | 4-hydroxythiophenol | 11.52 mmol, 1.45 g | OC1=CC=C(C=C1)S | C6H6OS
reactant | cesium carbonate | 34.56 mmol, 11.26 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Hydrochloric acid | 1N, 150 mL | Cl | ClH
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 4-(4-Hydroxy-phenylsulfanyl)-3-nitro-phenol | 1.35 g, 45% | OC1=CC=C(C=C1)SC1=C(C=C(C=C1)O)[N+](=O)[O-] | C12H9NO4S
